US06897231B2
[3-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL-N-(5,6,7,8-TETRAHYDRONAPHTHYL)CARBOXAMIDE
The title compound was prepared as described in Example 381, using methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate (0.401 g, 0.621 mmol) and lithium hydroxide (0.048 g, 2.00 mmol) in tetrahydrofuran (2.5 mL) and water (1.5 mL); 1-hydroxybenzotriazole (0.252 g, 1.86 mmol), 1,2,3,4-tetrahydro-1-naphthylamine (0.288 mL, 1.96 mmol), 1-ethyl-(3-dimethylaminopropyl) carbodiimide hydrochloride (0.360 g, 1.88 mmol), and additional tetrahydrofuran (2.5 mL); 4 N hydrochloride solution in dioxane (10 mL). The final crude product was purified by preparative HPLC (30-80% acetonitrile in H2O, 20 min.) (0.035 g, 13% yield over 3 steps): 1H NMR (CD3OD) δ 8.82 (s, 1H), 8.59 (s, 1H), 8.37 (br s, 1H), 8.26 (dt, 1H), 8.12 (d, 1H), 8.04 (d, 1H), 7.72 (t, 2H), 7.24 (d, 1H), 7.15 (t, 1H), 7.05 (d, 1H), 2.81 (m, 4H), 1.81 (m, 4H); ES-MS (m/z) 435 [M+1]+.

reactant | methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate | 0.621 mmol, 0.401 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C41H35N5O3
reactant | lithium hydroxide | 2.00 mmol, 0.048 g | [OH-].[Li+]
reactant | 1-hydroxybenzotriazole | 1.86 mmol, 0.252 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,2,3,4-tetrahydro-1-naphthylamine | 1.96 mmol, 0.288 mL | C1(CCCC2=CC=CC=C12)N | C10H13N
reactant | 1-ethyl-(3-dimethylaminopropyl) carbodiimide hydrochloride | 1.88 mmol, 0.360 g | Cl.C(C)N=C=NCCCN(C)C
reactant | hydrochloride | 4 N | Cl | ClH
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 3-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL-N-(5,6,7,8-TETRAHYDRONAPHTHYL)CARBOXAMIDE | 13% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NC1=CC=CC=2CCCCC12 | C26H22N6O
